US04265890
A stirred solution of 620 ml. of 0.9 M n-butyl lithium (0.56 mole) in tetrahydrofuran is placed under nitrogen and cooled to -70° C. To this stirred solution is added dropwise, during a period of 30 minutes, a solution of 0.1 mole of 6-bromo-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine in 230 ml. of tetrahydrofuran. The solution is stirred at -70° C. for 30 minutes and then a solution of 135 g. (0.62 mole) of diphenyldisulfide in 385 ml. of tetrahydrofuran is added dropwise. Stirring at -70° C. is continued for 1 hour. The nearly colorless solution is poured slowly with stirring into 5 l. of ice/water containing excess hydrochloric acid. The mixture is extracted with ether, then the aqueous phase is made alkaline by addition of 10 N sodium hydroxide. An ether extract of the resulting mixture is washed with a saturated solution of sodium chloride, dried over magnesium sulfate and concentrated. The residual liquid is subjected to chromatographic separation to afford 3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine, which is converted to a cyclohexylsulfamic acid salt in methanol-ether, m.p. 136°-139° C.

reactant | n-butyl lithium | 0.56 mole, 0.9 M | C(CCC)[Li]
reactant | 6-bromo-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.1 mole | BrC1=CC=CC=2CCN(CCC21)C | C11H14BrN
reactant | diphenyldisulfide | 0.62 mole | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methyl-6-phenylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C(CC1)C=CC=C2SC2=CC=CC=C2 | C17H19NS
